US05106871
Then, 7.0 g of the so-obtained 4-hydroxy-3-(3-methyl-2-butenyl)benzaldehyde was dissolved in770 ml of tetrahydrofuran, and 19.25 g of N,N-diisopropylethylamine was added to the solution and the mixture was stirred at room temperature for 1 hour. After the reaction, the reaction liquid was cooled to 0° C. and 7.0 ml of chloromethyl methyl ether was dropped into the reaction liquid, and the mixture was stirred at room temperature overnight. Then, the reaction liquid was poured into ice water, and the organic layer was extracted with ether, washed with water, dried with anhydrous sodium sulfate, and filtered. The obtained residue was subjected to the column chromatography (260 g of 200-400 mesh Kieselgel 60, hexane/ethyl acetate=6/1, 0.4 kg/cm2), fractions of 50 ml were recovered in sequence, and the 14th to 24th fractions were combined to obtain 7.85 g (yield=91.1%) of 4-methoxymethoxy-3-(3-methyl-2-butenyl)benzaldehyde in the form of a colorless liquid.

reactant | 4-hydroxy-3-(3-methyl-2-butenyl)benzaldehyde | 7.0 g | OC1=C(C=C(C=O)C=C1)CC=C(C)C | C12H14O2
reactant | N,N-diisopropylethylamine | 19.25 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | chloromethyl methyl ether | 7.0 ml | COCCl | C2H5ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-methoxymethoxy-3-(3-methyl-2-butenyl)benzaldehyde | 7.85 g, yield=91.1% | COCOC1=C(C=C(C=O)C=C1)CC=C(C)C | C14H18O3
